US04301284
A solution of 23 g of 2,6-cis-dimethylmorpholine and 30.4 g of 3-(p-tert-butyl-o-chlorophenyl)-2-methylpropyl bromide in 150 ml of acetonitrile is refluxed for 4 hours. The crude product is dissolved in methylene chloride, the solution is washed with water, aqueous sodium bicarbonate solution and again with water, and dried over Na2SO4, the solvent is evaporated and the residue is distilled. There is obtained 22 g of N-[3-(p-tert-butyl-o-chlorophenyl)-2-methylpropyl]-2,6-cis-dimethylmorpholine (active ingredient no. 2); b.p. (0.05 mm) 133°-135° C.

reactant | 2,6-cis-dimethylmorpholine | 23 g | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
reactant | 3-(p-tert-butyl-o-chlorophenyl)-2-methylpropyl bromide | 30.4 g | C(C)(C)(C)C1=CC(=C(C=C1)CC(CBr)C)Cl | C14H20BrCl
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[3-(p-tert-butyl-o-chlorophenyl)-2-methylpropyl]-2,6-cis-dimethylmorpholine | 22 g | C(C)(C)(C)C1=CC(=C(C=C1)CC(CN1C[C@H](O[C@H](C1)C)C)C)Cl | C20H32ClNO
